US05939451
0.5 g (0.0014 mol) of 4-amino-N-(2-bromo-6-methylamino-pyridin-4-yl)-benzenesulfonamide was dissolved in 25 ml of ethanol, treated with 0.05 g of Pd/C and hydrogenated with hydrogen gas under normal pressure for 1 hour. The catalyst was filtered off, the filtrate was concentrated and the residue was dissolved in 10 ml of 1N NaOH, filtered and the filtrate was then adjusted pH 8 by means of 1N HCl. The precipitate which separated slowly was filtered off under suction, rinsed and dried in a high vacuum. There was obtained 0.22 g (57%) of 4-amino-N-(2-methylamino-pyridin-4-yl)-benzenesulfonamide as white crystals; m.p.: >261° C. (dec).

reactant | 4-amino-N-(2-bromo-6-methylamino-pyridin-4-yl)-benzenesulfonamide | 0.0014 mol, 0.5 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC(=C1)NC)Br | C12H13BrN4O2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 4-amino-N-(2-methylamino-pyridin-4-yl)-benzenesulfonamide | 0.22 g, 57% | NC1=CC=C(C=C1)S(=O)(=O)NC1=CC(=NC=C1)NC | C12H14N4O2S
